US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-ethyl-N-pyridin-4-ylmethyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with N-ethyl-N-pyridin-4-ylmethylamine and 4-tert-butyl-N-p-tolyl-benzenesulfonamide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | N-ethyl-N-pyridin-4-ylmethylamine | C(C)NCC1=CC=NC=C1 | C8H12N2
reactant | 4-tert-butyl-N-p-tolyl-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C | C17H21NO2S
product | 2-[(4-tert-Butyl-benzenesulfonyl)-p-tolyl-amino]-N-ethyl-N-pyridin-4-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=CC=NC=C1)CC)C1=CC=C(C=C1)C | C27H33N3O3S
